US04321374
To a solution of cyanuric chloride (38.0 g) in acetone (350 ml) was added dropwise a suspension of dodecylamine (18.5 g) in acetone (40 ml) at 10° C. After addition, the mixture was stirred for 4 hours at that temperature. The reaction mixture was poured into water (2 l) and extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and ethyl acetate was distilled off. The resulting oil was purified with silica gel column chromatography (eluent=benzene:n-hexane=4:1) to afford N,N-bis-(2,4-dichloro-1,3,5-triazine-6-yl)-n-dodecylamine as white crystals melting at 50°-53° C.

reactant | cyanuric chloride | 38.0 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | dodecylamine | 18.5 g | C(CCCCCCCCCCC)N | C12H27N
reactant | water | 2 l | O | H2O
solvent | acetone | 350 ml | CC(=O)C | C3H6O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | N,N-bis-(2,4-dichloro-1,3,5-triazine-6-yl)-n-dodecylamine | ClC1=NC(=NC(=N1)Cl)N(C1=NC(=NC(=N1)Cl)Cl)CCCCCCCCCCCC | C18H25Cl4N7
